US08614209B2
Anhydrous copper (II) chloride (4 g, 0.03 mol) and tert-butyl nitrite (1.9 mL, 0.019 mol) were dissolved in IMS (100 mL) then treated with 2-amino-5-phenyl-thiophene-3-carboxylic acid ethyl ester (2 g, 8.097 mmol). After 30 minutes saturated aqueous ammonium chloride (20 mL) was added and the mixture left for a further 30 minutes. The resultant precipitate was filtered off and the filtrate was concentrated, washed with DCM, dried and concentrated to give a dark oil which was purified by column chromatography, eluting with 0-35% tert-butyl methyl ether in cyclohexane to afford 5-phenyl-thiophene-3-carboxylic acid ethyl ester as a yellow oil (1.38 g).

reactant | tert-butyl nitrite | 0.019 mol, 1.9 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2-amino-5-phenyl-thiophene-3-carboxylic acid ethyl ester | 8.097 mmol, 2 g | C(C)OC(=O)C1=C(SC(=C1)C1=CC=CC=C1)N | C13H13NO2S
catalyst | copper (II) chloride | 0.03 mol, 4 g | [Cu](Cl)Cl
solvent | ammonium chloride | 20 mL | [Cl-].[NH4+]
product | 5-phenyl-thiophene-3-carboxylic acid ethyl ester | 1.38 g | C(C)OC(=O)C1=CSC(=C1)C1=CC=CC=C1 | C13H12O2S
